US07655666B2
2-Amino-5-pyrazin-2-yl-4-trifluoromethyl-benzoic acid methyl ester
A solution containing 2-amino-5-iodo-4-trifluoromethyl-benzoic acid methyl ester (750 mg, 2.17 mmol), 2-tributylstannylpyrazine (1.0 g, 2.7 mmol) and (Ph3P)4Pd (125.6 mg, 0.109 mmol) in dioxane (40 mL) was heated at 120° C. for 17 h. LiCl (276.4 mg, 6.5 mmol) was added and the reaction mixture was refluxed for 1.5 h prior to the addition of di-t-butyl-p-cresol (188 mg, 0.85 mmol) and another portion of (Ph3P)4Pd (251.2 mg, 0.22 mmol). Heating was continued for 16 h, for a total reaction time of 36 h. After cooling to r.t., the solvent was removed in vacuo and the residue was purified by flash chromatography (200 g silica gel, hexanes→EtOAc:hexanes (3:7 to 1:1)). The fractions containing the product were combined and concentrated in vacuo. The resultant oil was further purified by partitioning between CH3CN and hexanes. The acetonitrile layer was concentrated in vacuo to furnish the title compound (248 mg, 38%) as a solid. API-ES: m/z 298 [M+H]+, rt 4.18 min.

reactant | 2-amino-5-iodo-4-trifluoromethyl-benzoic acid methyl ester | 2.17 mmol, 750 mg | COC(C1=C(C=C(C(=C1)I)C(F)(F)F)N)=O | C9H7F3INO2
reactant | 2-tributylstannylpyrazine | 2.7 mmol, 1.0 g | C(CCC)[Sn](C1=NC=CN=C1)(CCCC)CCCC
reactant | LiCl | 6.5 mmol, 276.4 mg | [Li+].[Cl-]
reactant | di-t-butyl-p-cresol | 0.85 mmol, 188 mg | C(C)(C)(C)C1=C(C(=CC=C1C)O)C(C)(C)C | C15H24O
solvent | dioxane | 40 mL | O1CCOCC1 | C4H8O2
catalyst | (Ph3P)4Pd | 0.109 mmol, 125.6 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | (Ph3P)4Pd | 0.22 mmol, 251.2 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Amino-5-pyrazin-2-yl-4-trifluoromethyl-benzoic acid methyl ester | 248 mg, 38% | COC(C1=C(C=C(C(=C1)C1=NC=CN=C1)C(F)(F)F)N)=O | C13H10F3N3O2
